US04508909
To an ice cold and stirred mixture of N-(2-hydroxyethyl)dithiocarbamic acid methyl ester (1.513 g) and ethoxyethylene (1.92 ml) is added toluene-p-sulfonic acid monohydrate (9.5 mg). After stirring for 30 minutes at room temperature, the homogeneous solution is mixed with triethylamine (8 μl) and concentrated under reduced pressure to yield N-[2-(1-ethoxyethoxy)ethyl]dithiocarbamic acid methyl ester (2.4 g).

reactant | N-(2-hydroxyethyl)dithiocarbamic acid methyl ester | 1.513 g | CSC(NCCO)=S | C4H9NOS2
reactant | ethoxyethylene | 1.92 ml | C(C)OC=C | C4H8O
reactant | toluene-p-sulfonic acid monohydrate | 9.5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | triethylamine | 8 μl | C(C)N(CC)CC | C6H15N
product | N-[2-(1-ethoxyethoxy)ethyl]dithiocarbamic acid methyl ester | 2.4 g | CSC(NCCOC(C)OCC)=S | C8H17NO2S2
